US05245046
Ethyl α-[3(trifluoromethyl)-benzylamino]-1-ethoxycarbonyl-indole-3-acetate hydrochloride
To a magnetically stirred solution of ethyl α-[3(trifluoromethyl)-benzylamino]-indole-3-acetate (1.00 g, 2.66 mmol) in 15 mL of DMF was added under nitrogen 0.112 g (2.79 mmol) of sodium hydride (60% oil dispersion). After stirring at room temperature for 10 minutes, 0.26 ml (2.79 mmol) of ethyl chloroformate was added. Stirring was continued for two hours at room temperature. At the end of this time, the reaction contents were poured into ice water, the aqueous solution extracted with ether and the ether solution washed with saturated brine and dried over anhydrous Na2SO4. Removal of the solvent in vacuo gave the crude product which was chromatographed with 80 g of silica gel using hexane-ethyl acetate (4:1) to yield 0.857 g of the title compound.

reactant | ethyl α-[3(trifluoromethyl)-benzylamino]-indole-3-acetate | 2.66 mmol, 1.00 g | FC(C=1C=C(CNC(C(=O)OCC)C2=CNC3=CC=CC=C23)C=CC1)(F)F | C20H19F3N2O2
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl chloroformate | 2.79 mmol, 0.26 ml | ClC(=O)OCC | C3H5ClO2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | Ethyl α-[3(trifluoromethyl)-benzylamino]-1-ethoxycarbonyl-indole-3-acetate hydrochloride | 0.857 g | Cl.FC(C=1C=C(CNC(C(=O)OCC)C2=CN(C3=CC=CC=C23)C(=O)OCC)C=CC1)(F)F | InChI=1S/C23H23F3N2O4.ClH/c1-3-31-21(29)20(27-13-15-8-7-9-16(12-15)23(24,25)26)18-14-28(22(30)32-4-2)19-11-6-5-10-17(18)19;/h5-12,14,20,27H,3-4,13H2,1-2H3;1H
